US07141352B2
A mixture of 194 g of 2-phenylbenzimidazole, 103 g of methyl acrylate and 500 g of methanol was heated and stirred at 60° C. for 100 hours. The solvent was distilled off in vacuo, followed by purification by column chromatography. There was obtained methyl 3-(2-phenyl-1H-benzimidazol-1-yl)-propionate (yield 60%).

reactant | 2-phenylbenzimidazole | 194 g | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2
reactant | methyl acrylate | 103 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 500 g | CO | CH4O
product | methyl 3-(2-phenyl-1H-benzimidazol-1-yl)-propionate | yield 60% | C1(=CC=CC=C1)C1=NC2=C(N1CCC(=O)OC)C=CC=C2 | C17H16N2O2
